US05677302
To a solution of 1-(butylcarbamoyl)-1,3-dihydrobenzimidazole-2-thione (39.89 g, 0.16 mole) in 250 mL of chloroform, was added 25.57 g (0.16 mole) of bromine, in 110 mL of chloroform, at 0° C. After the addition was complete, triethylamine (44.6 mL, 0.32 mole), in 80 mL of chloroform, was added dropwise to the reaction mixture. The mixture was stirred at 0° C. for an additional 4 h, and then stirred at room temperature for 14 h. The resulting mixture was washed with water and then with a 10% sodium sulfate solution. The organic layer was dried over magnesium sulfate and evaporated to give the crude product. Recrystallization from methanol gave 27.10 g (69%) of 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one as colourless crystals: mp 153°-154° C. (lit.: 156°-157° C., Martin et al. Tetrahedron 1983, 39, 2311).

reactant | 1-(butylcarbamoyl)-1,3-dihydrobenzimidazole-2-thione | 0.16 mole, 39.89 g | C(CCC)NC(=O)N1C(NC2=C1C=CC=C2)=S | C12H15N3OS
reactant | bromine | 0.16 mole, 25.57 g | BrBr | Br2
reactant | triethylamine | 0.32 mole, 44.6 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 110 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one | 27.10 g, 69% | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
